US05843992
(2S,3S)-N-Ethyl-3-diphenylmethylcarbamoyloxirane-2-carboxamide (Compound No. 12)
To a solution of (2S, 3S)-3-diphenylmethylcarbamoyloxirane-2-carboxylic acid (1.80 g, 6.05 mmol.) and N-hydroxysuccinimide (696 mg, 6.05 mmol) in methylene chloride (10 mL) was added a solution of N,N'-dicyclohexylcarbodiimide (1.25 g, 6.05 mmol.) in methylene chloride (7 mL) under chilling with ice. The mixture was stirred for 30 minutes at room temperature. To the mixture was then added under chilling with ice a solution of ethylamine hydrochloride (493 mg, 6.05 mmol.) and triethylamine (0.84 mL, 6.05 mmol) in methylene chloride (7 mL). The resulting mixture was stirred overnight at 5° C. The solvent was distilled off under reduced pressure, and N,N'-dicyclohexylurea (DC-Urea) was removed by filtration after addition of ethyl acetate (10 mL). The solution was washed successively with water, 0.5N hydrochloric acid, an aqueous sodium hydrogen carbonate saturated solution, and an aqueous sodium chloride saturated solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (chloroform/methanol=1/0 to 50/1), to give the desired compound as a white crystalline powdery product (928 mg, yield: 47%).

reactant | (2S, 3S)-3-diphenylmethylcarbamoyloxirane-2-carboxylic acid | 6.05 mmol, 1.80 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC(=O)[C@@H]1[C@H](O1)C(=O)O | C17H15NO4
reactant | N-hydroxysuccinimide | 6.05 mmol, 696 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 6.05 mmol, 1.25 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethylamine hydrochloride | 6.05 mmol, 493 mg | Cl.C(C)N
reactant | triethylamine | 6.05 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S)-N-Ethyl-3-diphenylmethylcarbamoyloxirane-2-carboxamide | C(C)NC(=O)[C@H]1O[C@@H]1C(NC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H20N2O3
